US08703980B2
Darunavir Ethanolate (5.0 g) was suspended into glycerol (25 g), heated to 110-120° C. under vacuum and maintained for 30 min. Water (50 mL) was added to the cooled reaction mass at 25-35° C. under stirring and the obtained suspension was stirred for 30 min at 25-35° C. The separated solid was filtered and dried at 40-45° C. under vacuum to yield 3.5 g of amorphous Darunavir.

reactant | Darunavir Ethanolate | 5.0 g | CCO.CC(C)CN(C[C@H]([C@H](CC=1C=CC=CC1)NC(=O)O[C@H]2CO[C@@H]3[C@H]2CCO3)O)S(=O)(=O)C=4C=CC(=CC4)N
reactant | glycerol | 25 g | OCC(O)CO | C3H8O3
solvent | Water | 50 mL | O | H2O
product | Darunavir | 3.5 g | CC(C)CN(C[C@H]([C@H](CC=1C=CC=CC1)NC(=O)O[C@H]2CO[C@@H]3[C@H]2CCO3)O)S(=O)(=O)C=4C=CC(=CC4)N | C27H37N3O7S
